US07645764B2
N-Cyclopropyl-4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzamide (21 mg) was dissolved in a mixture of 2 mL MeOH, 1 mL THF and 1 mL water. OXONE™ (1.63 mg, 0.09 mmol) was added, and the reaction mixture was stirred for three hours at room temperature. The reaction mixture was then partitioned between water and EtOAc, and the organic layer was washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to give 25 mg of N-cyclopropyl-3-(2-methanesulfonyl-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-4-methyl-benzamide.

reactant | N-Cyclopropyl-4-methyl-3-(8-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-benzamide | 21 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C)=O | C20H20N4O2S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | MeOH | 2 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | N-cyclopropyl-3-(2-methanesulfonyl-8-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-yl)-4-methyl-benzamide | 25 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N(C1=O)C)=O | C20H20N4O4S
